US07842688B2
c) tert-Butyl 4-{4-[3-(2-fluorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate
Analogously to Method I, 0.750 g of tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate and 0.753 g of 1-(3-bromopropoxy)-2-fluorobenzene are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.53 (2:1 EtOAc-heptane); Rt=5.10.

reactant | tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 0.750 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | 1-(3-bromopropoxy)-2-fluorobenzene | 0.753 g | BrCCCOC1=C(C=CC=C1)F | C9H10BrFO
product | tert-Butyl 4-{4-[3-(2-fluorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate | FC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)O)C=CC=C1 | C25H32FNO5
